US07361677B2
1-Benzyloxy-4-chloromethyl-2-trifluoromethyl-benzene (CAB03050)
Thionyl chloride (2.0 mL) was added to solution of (4-benzyloxy-3-trifluoromethyl-phenyl)-methanol (CAB03047, 3.10 g, 11.0 mmol) in dichloromethane (20 mL). The solution was stirred for 1 h at room temperature and concentrated under reduced pressure. Then diethyl ether (100 mL) and water (20 mL) were added. The organic layer was separated, washed with conc. sodium bicarbonate solution (10 mL), dried over sodium sulphate and concentrated under reduced pressure. The resulting oil solidified after a few minutes and was dried under high vacuum. Yield: 3.25 g (98%). 1H-NMR (400 MHz, CDCl3) δ=4.57 (s, 2H, —CH2Cl), 5.22 (s, 2H, —OCH2Ph), 7.02 (d, J =8.5 Hz, 1H), 7.31-7.52 (m, 6H), 7.63 (d, J=2.0 Hz, 1H). LRMS (FAB+): 91.1 (100), 265.2 (8), 300.1 (10, [M]+).

reactant | Thionyl chloride | 2.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (4-benzyloxy-3-trifluoromethyl-phenyl)-methanol | 11.0 mmol, 3.10 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CO)C(F)(F)F | C15H13F3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-Benzyloxy-4-chloromethyl-2-trifluoromethyl-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCl)C(F)(F)F | C15H12ClF3O
